US05922717
b) Methyl 3-(4-piperidinyl)-propionate
46.7 g (0.39 mol) of thionyl chloride are slowly added to 500 ml of methanol at -20° C., while stirring. When the addition has ended, the mixture is stirred for a further 20 minutes and 56.1 g (0.357 mol) of 3-(4-piperidinyl)-propionic acid are then slowly added, also at -20° C. The mixture is stirred at -20° C for a further hour and the temperature is then allowed to rise to room temperature overnight, with further stirring. The clear solution thus obtained is concentrated to dryness in vacuo and the residue is crystallized from acetone.

reactant | thionyl chloride | 0.39 mol, 46.7 g | S(=O)(Cl)Cl | Cl2OS
reactant | 3-(4-piperidinyl)-propionic acid | 0.357 mol, 56.1 g | N1CCC(CC1)CCC(=O)O | C8H15NO2
reactant | methanol | 500 ml | CO | CH4O
product | Methyl 3-(4-piperidinyl)-propionate | N1CCC(CC1)CCC(=O)OC | C9H17NO2
